US09284308B2
(1,2-Dimethyl-1H-imidazol-5-yl)(tetrahydro-2H-pyran-4-yl)methanone
A solution of n-BuLi (4.0 mL, 10 mmol, 2.5 M solution in hexane) was slowly added to a solution of 5-bromo-1,2-dimethyl-1H-imidazole (1.77 g, 10.2 mmol) in THF (70 mL) at −78° C. After addition, stirring was continued for an additional 30 minutes and N-methoxy-N-methyltetrahydro-2H-pyran-4-carboxamide (1.76 g, 10.1 mmol, Intermediate 1: step a, Procedure A) dissolved in THF (25 mL) was slowly added. An additional 6 mL of THF was used to complete the quantitative addition. The mixture was stirred at −78° C. for 5 minutes then warmed to room temperature and stirred for 1 hour. The solution was quenched with water and layers were separated. The aqueous layer was extracted with DCM and the combined organic extracts washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The crude product was purified using flash column chromatography (0 to 6% MeOH/DCM) to provide the title compound.

reactant | n-BuLi | 10 mmol, 2.5 M, 4.0 mL | [Li]CCCC
reactant | 5-bromo-1,2-dimethyl-1H-imidazole | 10.2 mmol, 1.77 g | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | N-methoxy-N-methyltetrahydro-2H-pyran-4-carboxamide | CON(C(=O)C1CCOCC1)C | C8H15NO3
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (1,2-Dimethyl-1H-imidazol-5-yl)(tetrahydro-2H-pyran-4-yl)methanone | CN1C(=NC=C1C(=O)C1CCOCC1)C | C11H16N2O2
